US07557114B2
(a) 3-Fluoro-N,N-diisopropyl-5-trifluoromethyl-benzamide
To a suspension of 15.9 mmol 3-Fluoro-5-(Trifluoromethyl) benzoic acid in 20 ml toluene containing 2 drops of DMF was added 79.7 mmol thionylchloride at 0° C. The mixture was heated at 85° C. for 5 hours. The solvent was carefully removed in vacuo. The colorless liquid was dissolved in 25 ml dichloromethane and cooled to 0° C. 63.8 mmol diisopropylamine was added dropwise. The mixture was allowed to warm to RT. After 1 hour the solvent was removed in vacuo. The residue was taken in ethyl acetate and washed twice with water. The washings were extracted once with ethyl acetate. The combined organic phases were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by chromatography (SiO2, heptane/ethyl acetate) to yield the title compound as a light yellow solid (85% yield). MS (m/e): 291.9 (M+, 100%)

reactant | 3-Fluoro-5-(Trifluoromethyl) benzoic acid | 15.9 mmol | FC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F4O2
reactant | thionylchloride | 79.7 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | diisopropylamine | 63.8 mmol | C(C)(C)NC(C)C | C6H15N
catalyst | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-Fluoro-N,N-diisopropyl-5-trifluoromethyl-benzamide | 85% yield | FC=1C=C(C(=O)N(C(C)C)C(C)C)C=C(C1)C(F)(F)F | C14H17F4NO
